LC
L0100 1 0 1E-3 IC=0
L0200 2 0 0.25E-3
L0300 3 0 0.1111111111E-3
C0100 1 0 1E-6 IC=1
C0200 2 0 1E-6 IC=1
C0300 3 0 1E-6 IC=1
E0400 4 0 3 0 1
E0504 5 4 2 0 1
E0605 6 5 1 0 1
.TRAN 0.003 0.0003E-3 TRAP 1 UIC
